US07592456B2
Step 3: N-[(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)methyl]-2-methylpropane-2-sulfinamide
To a solution of N-[(1E)-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)methylene]-2-methylpropane-2-sulfinamide (170 mg, 0.34 mmol) in MeOH (1.2 ml) and CH2Cl2 (2.5 ml) was added NaBH4 (78 mg, 2.06 mmol). The reaction was left for 10 minutes, before addition of water (2 mL). The mixture was extracted with CH2Cl2 dried (Na2SO4) and evaporated in vacuo to give the title compound as a solid (125 mg). 1H NMR (400 MHz, d6-DMSO): δ 8.72 (1H, s), 8.43 (1H, t, J=2.3 Hz), 8.38 (1H, s), 8.34 (1H, d, J=8.7 Hz), 8.23 (2H, dd, J=8.2, 10.2 Hz), 8.04 (1H, dd, J=1.8, 8.6 Hz), 7.95-7.91 (3H, m), 7.69 (1H, dd, J=4.6, 8.0 Hz), 7.38 (2H, t, J=8.8 Hz), 5.98 (1H, t, J=6.5 Hz), 4.88-4.78 (2H, m), 1.18 (9H, s). m/z (ES+) 497 [MH+].

reactant | N-[(1E)-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)methylene]-2-methylpropane-2-sulfinamide | 0.34 mmol, 170 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=NC=CC=C1\C=N\S(=O)C(C)(C)C | C26H23FN2O3S2
reactant | NaBH4 | 2.06 mmol, 78 mg | [BH4-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | MeOH | 1.2 ml | CO | CH4O
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
product | N-[(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)methyl]-2-methylpropane-2-sulfinamide | 125 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=NC=CC=C1CNS(=O)C(C)(C)C | C26H25FN2O3S2
